US04098814
103 g. of 1-amino ethane-1,1-diphosphonic acid are suspended in 100 g. of a 30% formaldehyde solution. 85 cc. of phosphorus trichloride are added thereto drop by drop while stirring. After the addition is completed, the mixture is heated to boiling until a homogeneous mixture is formed. The water is removed by evaporation in a vacuum. The resulting phosphonic acid mixture is precipitated by the addition of acetone. N-phosphono methylene-1-amino ethane-1,1-diphosphonic acid is obtained in this manner.

reactant | 1-amino ethane-1,1-diphosphonic acid | NC(C)(P(O)(=O)O)P(O)(=O)O | C2H9NO6P2
reactant | formaldehyde | C=O | CH2O
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
product | N-phosphono methylene-1-amino ethane-1,1-diphosphonic acid | P(=O)(O)(O)C=NC(C)(P(O)(=O)O)P(O)(=O)O | C3H10NO9P3
